US05604237
9,10-Dihydro-6,7,8-trimethoxy-9-oxo-4-acridinecarboxylic acid (1.5 g). IR includes a peak at 1620 cm-1 (CO).
From 3,4,5-trimethoxyaniline (3.8 g) and 2-iodoisophthalic acid (5 g).

reactant | 3,4,5-trimethoxyaniline | 3.8 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | 2-iodoisophthalic acid | 5 g | IC1=C(C(=O)O)C=CC=C1C(=O)O | C8H5IO4
product | 9,10-Dihydro-6,7,8-trimethoxy-9-oxo-4-acridinecarboxylic acid | COC=1C=C2NC=3C(=CC=CC3C(C2=C(C1OC)OC)=O)C(=O)O | C17H15NO6
